US07618970B2
3,4,4-Trimethoxytetrahydro-2H-pyran
To a solution of 4,4-dimethoxytetrahydro-2H-pyran-3-ol (6.00 g, 37.0 mmol) in THF (100 mL) at 0° C. was added sodium hydride (1.48 g, 37.0 mmol). After being stirred at 0° C. for 1 h, methyl iodide (4.61 mL, 74.0 mmol) was added dropwise. The reaction was allowed to warm up to ambient temperature and quenched using aqueous NH4Cl. The product was extracted with ether three times. The combined extracts were dried over Na2SO4 and concentrated. Purification by flash chromatography on silica gel (10% ether to 60% ether/hexanes) provided the desired product. 1H NMR (CDCl3) δ 4.05-3.95 (1H, m), 3.80-3.70 (1H, m), 3.60-3.50 (3H, m), 3.50 (3H, s), 3.30 (3H, s), 3.10 (3H, s), 2.00-1.70 (2H, m).

reactant | 4,4-dimethoxytetrahydro-2H-pyran-3-ol | 37.0 mmol, 6.00 g | COC1(C(COCC1)O)OC | C7H14O4
reactant | sodium hydride | 37.0 mmol, 1.48 g | [H-].[Na+]
reactant | methyl iodide | 74.0 mmol, 4.61 mL | CI | CH3I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3,4,4-Trimethoxytetrahydro-2H-pyran | COC1COCCC1(OC)OC | C8H16O4
